US07592477B2
Step a) Formation of N-[2-(2-fluorophenyl)ethyl]-N-[4-(octyloxy)benzyl]amine
The same procedure as employed in the preparation of Example 394 (step b) but using 4-(octyloxy)benzaldehyde and 2-(2-fluorophenyl)ethylamine gave the title compound as an oil. HPLC (Condition A), Rt: 4.37 min (HPLC purity: 76.0%).

reactant | 4-(octyloxy)benzaldehyde | C(CCCCCCC)OC1=CC=C(C=O)C=C1 | C15H22O2
reactant | 2-(2-fluorophenyl)ethylamine | FC1=C(C=CC=C1)CCN | C8H10FN
product | N-[2-(2-fluorophenyl)ethyl]-N-[4-(octyloxy)benzyl]amine | FC1=C(C=CC=C1)CCNCC1=CC=C(C=C1)OCCCCCCCC | C23H32FNO
